US07875639B2
3-(2-methoxyethyl)-4-methyl-1,3-thiazol-2(3H)-imine hydrobromide
A mixture of 4-methylthiazol-2-ylamine (0.75 g, 6.5 mmol) and 2-bromoethyl methyl ether (73 μL, 7.8 mmol) was heated at 85° C. for 15 hours. The mixture was cooled to ambient temperature and the resulting solid was triturated with isopropanol. Recrystallization from ethanol afforded 0.56 g (34%) of the title compound. 1H NMR (DMSO-d6, 300 MHz) δ ppm 2.25 (d, J=1.4 Hz, 3 H) 3.25 (s, 3 H) 3.57 (t, J=5.1 Hz, 2 H) 4.15 (t, J=5.1 Hz, 2 H) 6.68 (d, J=1.4 Hz, 1 H) 9.40 (s, 1 H); MS (DCI/NH3) m/z 173 (M+H)+.

reactant | 4-methylthiazol-2-ylamine | 6.5 mmol, 0.75 g | CC=1N=C(SC1)N | C4H6N2S
reactant | 2-bromoethyl methyl ether | 7.8 mmol, 73 μL | COCCBr | C3H7BrO
product | 3-(2-methoxyethyl)-4-methyl-1,3-thiazol-2(3H)-imine hydrobromide | 0.56 g, 34% | Br.COCCN1C(SC=C1C)=N | InChI=1S/C7H12N2OS.BrH/c1-6-5-11-7(8)9(6)3-4-10-2;/h5,8H,3-4H2,1-2H3;1H
